US05561147
ii) Synthesis of N-(5-methanesulfonyloxypentyl)caprylamide
To a solution of 2.00 g (7.77 mmol) of N-(5-hydroxypentyl)caprylamide and 1.30 ml (9.32 mmol) of triethylamine in50 ml of methylene chloride was added 0.72 ml (9.32 mmol) of methanesulfonyl chloride under ice-cooling with stirring and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was washed with an aqueous saturated sodium bicarbonate solution and water and dried. The solvent was distilled off. The residue was washed with hexane to obtain 1.95 g of the desired compound (74.8%, colorless powder), mp: 67.0°-68.0° C.

reactant | N-(5-hydroxypentyl)caprylamide | 7.77 mmol, 2.00 g | OCCCCCNC(CCCCCCC)=O | C13H27NO2
reactant | triethylamine | 9.32 mmol, 1.30 ml | C(C)N(CC)CC | C6H15N
reactant | methylene chloride | ml | C(Cl)Cl | CH2Cl2
reactant | methanesulfonyl chloride | 9.32 mmol, 0.72 ml | CS(=O)(=O)Cl | CH3ClO2S
product | N-(5-methanesulfonyloxypentyl)caprylamide | 1.95 g, 74.8% | CS(=O)(=O)OCCCCCNC(CCCCCCC)=O | C14H29NO4S
